### PR TITLE
Erdos Problem 329

### LINKED ISSUE #224: Erdős problem 329: asymptotics of Sidon sets
### What is the conjecture
    
https://www.erdosproblems.com/329

  Suppose $A\subseteq \mathbb{N}$ is a Sidon set. How large can 

$$\limsup_{N\to \infty}\frac{\lvert A\cap \{1,\ldots,N\}\rvert}{N^{1/2}}$$

be?

Status: open

see also #222 and #223 

### Prerequisites needed
None, Sidon sets are already in `ForMathlib`.

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by saurabhraghuvanshii**
closed #224

### CODE REVIEW

File: FormalConjectures/ErdosProblems/329.lean [hunk 1]
```diff
@@ -0,0 +1,113 @@
+/
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/329.lean]:
```suggestion
/-
```

File: FormalConjectures/ErdosProblems/329.lean [hunk 2]
```diff
@@ -0,0 +1,133 @@
...
+Erdős and Turán [ErTu41] have proved this lim sup is always ≤ 1.
+
+The fact that 1 is possible would follow if any finite Sidon set is a subset of a perfect
+difference set.
+-/
+
+open Function Set Filter
+
+/-- The density of a Sidon set `A` up to `N`. -/
+def sidonDensity (A : Set ℕ) (N : ℕ) : ℝ :=
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/329.lean]: How come you have chosen this name? Unless this is established and exists in the literature I would maybe go for something like `sqrtPartialDensity` to be similar to the `partialDensity` which we have defined in the `ForMathlib` folder. I would also make the doscstring a bit more descriptive to explain that we are dividing by the square root of `N` instead of just `N` :)

File: FormalConjectures/ErdosProblems/329.lean [hunk 3]
```diff
@@ -0,0 +1,133 @@
...
+  (A ∩ Set.Icc 1 N).ncard / (N : ℝ).sqrt
+
+/-- The upper density of a Sidon set `A`. -/
+noncomputable def sidonUpperDensity (A : Set ℕ) : ℝ :=
+  limsup (fun N => sidonDensity A N) atTop
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/329.lean]: Similar as my comment above.

File: FormalConjectures/ErdosProblems/329.lean [hunk 4]
```diff
@@ -0,0 +1,133 @@
...
+@[category research open, AMS 5 11]
+theorem erdos_329 : sSup {sidonUpperDensity A | (A : Set ℕ) (_ : IsSidon A)} =
+    answer(sorry) := by
+  sorry
+
+/--
+Erdős proved that 1/2 is achievable as an upper density.
+-/
+@[category research solved, AMS 5 11]
+theorem erdos_329.lower_bound : ∃ᵉ (A : Set ℕ), IsSidon A ∧ sidonUpperDensity A ≥ 1/2 := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/329.lean]:
```suggestion
theorem erdos_329.lower_bound : ∃ (A : Set ℕ), IsSidon A ∧ sidonUpperDensity A = 1/2 := by
```
Here you do not need the `e` (which is used for stating things like `∃ᵉ (a > 0), ...` instead of `∃ a, a > 0 \to ...`. I also changed to an equality here, since this is what Erdős proved if I understand correctly?

**Review by callesonne — COMMENTED** [review]
Thanks for the contribution! Here are a few comments :)

File: FormalConjectures/ErdosProblems/329.lean (hunk 4 above)
Comment (saurabhraghuvanshii) [reply FormalConjectures/ErdosProblems/329.lean]: yaa!

File: FormalConjectures/ErdosProblems/329.lean [hunk 5]
```diff
@@ -0,0 +1,135 @@
...
+@[category research solved, AMS 5 11]
+theorem erdos_329.lower_bound : ∃ (A : Set ℕ), IsSidon A ∧ sidonUpperDensity A = 1/2 := by
+  sorry
+
+/--
+Krückeberg [Kr61] proved that 1/2 is achievable.
+-/
+@[category research solved, AMS 5 11]
+theorem kruckeberg_1961 : ∃ᵉ (A : Set ℕ), IsSidon A ∧ sidonUpperDensity A = 1/2 := by
+  sorry
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/329.lean]: These two look identical. Should the first one maybe only be a lower bound?

File: FormalConjectures/ErdosProblems/329.lean [hunk 6]
```diff
@@ -0,0 +1,135 @@
...
+difference set.
+-/
+
+open Function Set Filter
+
+/--
+The partial density of a Sidon set `A` up to `N`, normalized by dividing by `√N` instead of `N`.
+This measures how close the set comes to the optimal density for Sidon sets.
+-/
+def sqrtPartialDensity (A : Set ℕ) (N : ℕ) : ℝ :=
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/329.lean]:
```suggestion
noncomputable def sqrtPartialDensity (A : Set ℕ) (N : ℕ) : ℝ :=
```
This need noncomputable to not give an error (since you're using `Set.ncard`)

File: FormalConjectures/ErdosProblems/329.lean [hunk 7]
```diff
@@ -0,0 +1,135 @@
...
+theorem greedy_sidon_construction : ∃ᵉ (A : Set ℕ), IsSidon A ∧ 0 < sidonUpperDensity A := by
+  sorry
+
+/--
+A Sidon set cannot have density greater than 1.
+-/
+@[category undergraduate, AMS 5 11]
+theorem sidon_density_upper_bound (A : Set ℕ) (hA : IsSidon A) :
+    sidonUpperDensity A ≤ 1 := by
+  sorry
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/329.lean]:
```suggestion
```
Isn't this the same as `erdos_turan_1941` above?

File: FormalConjectures/ErdosProblems/329.lean [hunk 8]
```diff
@@ -0,0 +1,135 @@
...
+
+Suppose `A ⊆ ℕ` is a Sidon set. How large can
+lim sup_{N→∞} |A ∩ {1,…,N}| / N^{1/2}
+be?
+
+Erdős proved that 1/2 is possible and Krückeberg [Kr61] proved 1/2 is possible.
+Erdős and Turán [ErTu41] have proved this lim sup is always ≤ 1.
+
+The fact that 1 is possible would follow if any finite Sidon set is a subset of a perfect
+difference set.
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/329.lean]: We usually don't put this comment in the module docstring, could you incorporate the paragraphs here into the comment of the relevant problem?

**Review by callesonne — COMMENTED** [review]
Thanks! Some more comments :)

File: FormalConjectures/ErdosProblems/329.lean (hunk 7 above)
Comment (saurabhraghuvanshii) [reply FormalConjectures/ErdosProblems/329.lean]: didn't see `erdos_turan_1941` let me remove this

Comment (saurabhraghuvanshii) [reply FormalConjectures/ErdosProblems/329.lean]: removed it.

File: FormalConjectures/ErdosProblems/329.lean [hunk 9]
```diff
@@ -0,0 +1,127 @@
...
+**Erdős Problem 329.**
+Let `A ⊆ ℕ` be a Sidon set.  How large can
+`lim sup_{N → ∞} |A ∩ {1,…,N}| / N^{1/2}`
+be?
+
+Erdős proved that `1 / 2` is attainable.  Krückeberg ([Kr61]) provided an independent
+construction, and Erdős–Turán ([ErTu41]) established the upper bound `≤ 1`.
+
+If every finite Sidon set embeds into a perfect difference set (Problem 707), then the
+limit superior could reach `1`.
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/329.lean]:
```suggestion
```
These comments should just go in the corresponding lemma/theorem statement.

File: FormalConjectures/ErdosProblems/329.lean [hunk 10]
```diff
@@ -0,0 +1,127 @@
...
+-/
+@[category research solved, AMS 5 11]
+theorem erdos_329.lower_bound : ∃ (A : Set ℕ), IsSidon A ∧ sidonUpperDensity A ≥ 1/2 := by
+  sorry
+
+/--
+Krückeberg [Kr61] proved that 1/2 is achievable.
+-/
+@[category research solved, AMS 5 11]
+theorem kruckeberg_1961 : ∃ᵉ (A : Set ℕ), IsSidon A ∧ sidonUpperDensity A = 1/2 := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/329.lean]:
```suggestion
theorem kruckeberg_1961 : ∃ (A : Set ℕ), IsSidon A ∧ sidonUpperDensity A = 1/2 := by
```
The e is not needed here. According to the website, didn't `Krückeberg` show that `1/√2` is attainable?

File: FormalConjectures/ErdosProblems/329.lean [hunk 11]
```diff
@@ -0,0 +1,127 @@
...
+@[category undergraduate, AMS 5 11]
+theorem squares_sidon_density : sidonUpperDensity {n^2 | n : ℕ} = 0 := by
+  sorry
+
+/--
+The greedy construction gives a Sidon set with positive density.
+-/
+@[category undergraduate, AMS 5 11]
+theorem greedy_sidon_construction : ∃ᵉ (A : Set ℕ), IsSidon A ∧ 0 < sidonUpperDensity A := by
+  sorry
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/329.lean]:
```suggestion
/--
It is possible to construct a Sidon set with positive density.
-/
@[category undergraduate, AMS 5 11]
theorem exists_sidon_pos_density : ∃ᵉ (A : Set ℕ), IsSidon A ∧ 0 < sidonUpperDensity A := by
  sorry
```
I would not mention the greedy construction here, as the mathematical statement does not mention it. If you wanted to, you could define separately `greedySidon` using the greedy construction, and then add a lemma to show that
1. It is a Sidon set
2. It has positive upper density.

File: FormalConjectures/ErdosProblems/329.lean [hunk 12]
```diff
@@ -0,0 +1,127 @@
...
+
+/--
+If any finite Sidon set can be embedded in a perfect difference set,
+then the maximum density would be 1.
+-/
+@[category research open, AMS 5 11]
+theorem erdos_329.perfect_difference_set_implication :
+    (∀ (A : Finset ℕ), IsSidon A.toSet → ∃ᵉ (D : Set ℕ) (n : ℕ),
+      ↑A ⊆ D ∧ IsPerfectDifferenceSet D n) →
+    sSup {sidonUpperDensity A | (A : Set ℕ) (_ : IsSidon A)} = 1 := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/329.lean]:
```suggestion
theorem erdos_329.of_sub_perfectDifferenceSet :
    (∀ (A : Finset ℕ), IsSidon A.toSet → ∃ (D : Set ℕ) (n : ℕ),
      ↑A ⊆ D ∧ IsPerfectDifferenceSet D n) →
    sSup {sidonUpperDensity A | (A : Set ℕ) (_ : IsSidon A)} = 1 := by
```
rename to a more mathlib-standard name and the `∃ᵉ` is not necessary here.

File: FormalConjectures/ErdosProblems/329.lean [hunk 13]
```diff
@@ -0,0 +1,127 @@
...
+  sorry
+
+/--
+The converse: if the maximum density is 1, then any finite Sidon set
+can be embedded in a perfect difference set.
+-/
+@[category research open, AMS 5 11]
+theorem erdos_329.converse_implication :
+    (sSup {sidonUpperDensity A | (A : Set ℕ) (_ : IsSidon A)} = 1) →
+    (∀ (A : Finset ℕ), IsSidon A.toSet → ∃ᵉ (D : Set ℕ) (n : ℕ),
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/329.lean]:
```suggestion
    (∀ (A : Finset ℕ), IsSidon A.toSet → ∃ (D : Set ℕ) (n : ℕ),
```

File: FormalConjectures/ErdosProblems/329.lean [hunk 14]
```diff
@@ -0,0 +1,124 @@
...
+-/
+@[category undergraduate, AMS 5 11]
+theorem squares_sidon_density : sidonUpperDensity {n^2 | n : ℕ} = 0 := by
+  sorry
+
+/--
+It is possible to construct a Sidon set with positive density.
+-/
+@[category undergraduate, AMS 5 11]
+theorem exists_sidon_pos_density : ∃ᵉ (A : Set ℕ), IsSidon A ∧ 0 < sidonUpperDensity A := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/329.lean]:
```suggestion
theorem exists_sidon_pos_density : ∃ (A : Set ℕ), IsSidon A ∧ 0 < sidonUpperDensity A := by
```

File: FormalConjectures/ErdosProblems/329.lean [hunk 15]
```diff
@@ -0,0 +1,124 @@
...
+-/
+@[category research solved, AMS 5 11]
+theorem erdos_329.lower_bound : ∃ (A : Set ℕ), IsSidon A ∧ sidonUpperDensity A ≥ 1/2 := by
+  sorry
+
+/--
+Krückeberg ([Kr61]) exhibited an infinite Sidon set `A` with
+`sidonUpperDensity A = 1 / Real.sqrt 2`, improving Erdős’ earlier
+`1 / 2` lower bound.
+-/
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/329.lean]:
```suggestion
`1 / 2` lower bound.

[Kr61] Krückeberg, Fritz, $B\sb{2}$-Folgen und verwandte Zahlenfolgen. J. Reine Angew. Math. (1961), 53-60.
-/
```

File: FormalConjectures/ErdosProblems/329.lean [hunk 16]
```diff
@@ -0,0 +1,124 @@
...
+@[category research solved, AMS 5 11]
+theorem kruckeberg_1961 : ∃ (A : Set ℕ), IsSidon A ∧
+    sidonUpperDensity A = 1 / Real.sqrt 2 := by
+  sorry
+
+/--
+Erdős and Turán [ErTu41] proved the upper bound of 1.
+-/
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/329.lean]:
```suggestion
Erdős and Turán [ErTu41] proved the upper bound of 1.

[ErTu41] Erdős, P. and Turán, P., On a problem of Sidon in additive number theory, and on some related problems. J. London Math. Soc. (1941), 212-215.
-/
```

**Review by callesonne — APPROVED** [review]
Thanks for your contribution, this is ready to merge now! :)
